US08895544B2
[2-(4-Bromo-5-ethyl-2-fluoro-phenoxymethoxy)-ethyl]-trimethyl-silane
To a solution of 4-bromo-5-ethyl-2-fluoro-phenol (Preparation 3, 80 g, 365 mmol) in DCM (1 L) was added DIPEA (70 mL, 401 mmol) and SEM-Cl (71 mL, 401 mmol). The resulting solution was stirred at room temperature for 18 hours. The reaction mixture was washed with water (1 L), dried over MgSO4 and concentrated in vacuo to yield the crude product. This material was purified by silica gel chromatography eluting with 30% DCM in heptane to give the title compound as a pale yellow oil (109.8 g, 86%).

reactant | 4-bromo-5-ethyl-2-fluoro-phenol | 365 mmol, 80 g | BrC1=CC(=C(C=C1CC)O)F | C8H8BrFO
reactant | DIPEA | 401 mmol, 70 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | SEM-Cl | 401 mmol, 71 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | [2-(4-Bromo-5-ethyl-2-fluoro-phenoxymethoxy)-ethyl]-trimethyl-silane | 109.8 g, 86% | BrC1=CC(=C(OCOCC[Si](C)(C)C)C=C1CC)F | C14H22BrFO2Si
